US05155133
b) (2R)-3-(4-cyanophenoxy)propane-1,2-diol
77 g of (4S)-2,2-dimethyl-4-(4-cyanophenoxy)methyl-1,3-dioxolane, was dissolved in methanol (200 ml) and water (75 ml). Concentrated hydrochloric acid (0.5 ml) was added and the mixture was kept at 50° C. overnight. It was evaporated at reduced pressure and recrystallized from water to yield 46 g of the title compound as white leaves, m.p. 63°-65° C.

reactant | (4S)-2,2-dimethyl-4-(4-cyanophenoxy)methyl-1,3-dioxolane | 77 g | CC1(OC[C@@H](O1)COC1=CC=C(C=C1)C#N)C | C13H15NO3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 75 ml | O | H2O
product | (2R)-3-(4-cyanophenoxy)propane-1,2-diol | 46 g | C(#N)C1=CC=C(OC[C@@H](CO)O)C=C1 | C10H11NO3
